US06136810
3-Bromotoluene (12.5 g, 73.1 mmol) was added to a tetrahydrofuran (200 ml) solution of magnesium (1.70 g, 70.0 mmol), and the mixture was stirred until magnesium pieces disappeared. The reaction solution was cooled to -20° C., mixed with 2-chloro-3-cyano-6-ethylpyridine (10.6 g, 63.6 mmol) and then stirred for 17 hours at room temperature. The reaction solution was mixed with saturated ammonium chloride aqueous solution and 1 N hydrochloric acid, and the mixture was stirred for 2 hours at room temperature and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and then the filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 2-chloro-6-ethyl-3-(3-methylbenzoyl)pyridine (9.19 g, 56%) as a yellow oily material.

reactant | 3-Bromotoluene | 73.1 mmol, 12.5 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | magnesium | 70.0 mmol, 1.70 g | [Mg] | Mg
reactant | 2-chloro-3-cyano-6-ethylpyridine | 63.6 mmol, 10.6 g | ClC1=NC(=CC=C1C#N)CC | C8H7ClN2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-chloro-6-ethyl-3-(3-methylbenzoyl)pyridine | 9.19 g, 56% | ClC1=NC(=CC=C1C(C1=CC(=CC=C1)C)=O)CC | C15H14ClNO
